US07256201B2
1) Synthetic Method C: Synthesis of 6-methoxy-1-phenyl-1,2,3,4-tetrahydroisoquinoline
3-Methoxyphenylethylamine (1.5 g) and benzaldehyde (1.0 mL) were reacted together in benzene (10 mL) in a modified Dean-Stark apparatus, where the side arm contained activated 3 Å molecular sieve beads. The reaction was vigorously refluxed for 1 h until a uniform solution resulted. The reaction was cooled and evaporated. The resulting residue was taken up in trifluoroacetic acid (6 mL) and heated to 60° C. for 18 h. The reaction was cooled, concentrated then partitioned between 1N sodium hydroxide (70 mL) and diethyl ether (50 mL). The organic layer was washed with 0.5 N sodium hydroxide (70 mL), dried, concentrated to 20 mL and cooled in an ice-water bath. The crystals that formed were collected and dried to give the title compound (1.90 g). MS: 240.0 (MH+); HPLC tR: 1.62 min (method D); 1H NMR (DMSO-d6+TFA-d): 7.47-7.49 (m, 3H), 7.37-7.39 (m, 2H), 6.90 (broad s, 1H), 6.79 (dd, 1H, J=2.4, 8.7 Hz), 6.66 (d, 1H, J=8.7 Hz), 5.75 (s, 1H), 3.77 (s, 3H), 3.39-3.44 (m, 2H), 3.17-3.28 (m, 1H), 3.04-3.12 (m, 1H).

reactant | 3-Methoxyphenylethylamine | 1.5 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | benzaldehyde | 1.0 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 6-methoxy-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.90 g | COC=1C=C2CCNC(C2=CC1)C1=CC=CC=C1 | C16H17NO
